US09216964B2
To a solution of 7-benzyl-N-(3-(isoquinolin-3-yl)-4-methylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (500 mg, 1.09 mmol) in dichloroethane (14 ml) is added DIEA (284 mg, 2.2 mmol) and 1-chloroethyl carbonochloridate (313 mg, 2.2 mmol). The reaction mixture is stirred at 90° C. for 12 hours, and cooled. The solvent is removed by rotary evaporation. The residue is redissolved in methanol (20 ml) and stirred at room temperature for 15 hours. After concentration, the crude product is purified by silica gel flash chromatography (eluted with 5% methanol in ethyl acetate) to afford N-(3-(isoquinolin-3-yl)-4-methylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine as a dark yellow solid. LC-MS m/z: 368.2 (M+1).

reactant | 7-benzyl-N-(3-(isoquinolin-3-yl)-4-methylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 1.09 mmol, 500 mg | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC(=C(C=C1)C)C=1N=CC2=CC=CC=C2C1 | C30H27N5
reactant | DIEA | 2.2 mmol, 284 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloroethyl carbonochloridate | 2.2 mmol, 313 mg | C(OC(C)Cl)(=O)Cl | C3H4Cl2O2
solvent | dichloroethane | 14 ml | ClC(C)Cl | C2H4Cl2
product | N-(3-(isoquinolin-3-yl)-4-methylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | C1=NC(=CC2=CC=CC=C12)C=1C=C(C=CC1C)NC=1C2=C(N=CN1)CNCC2 | C23H21N5
